US08877782B2
[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-pyrrolidin-1-yl-methanone
As described for example 191, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.64 mmol) was converted, using pyrrolidine instead of 2-aminoethyl isopropylether, to the title compound (229 mg, 98%) which was obtained as a colourless. MS: m/e=364.3 [M+H]′.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.64 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | [6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-pyrrolidin-1-yl-methanone | 229 mg, 98% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)C(=O)N1CCCC1 | C21H21N3O3
